US07723368B2
Step 6) 4-(5-Ethynyl-2-fluoro-phenyl)-butyronitrile
To a stirred solution of 4-(2-Fluoro-5-trimethylsilanylethynyl-phenyl)-butyronitrile (0.27 g, 1.04 mmol), in dry methylene chloride (2.5 mL) and methanol (2.5 mL) was added cesium carbonate (0.41 g, 1.2 mmol) and stirred for 2 h under a nitrogen atmosphere. The mixture was diluted with diethyl ether (15 mL), and partitioned between diethyl ether and H2O (10 mL), and the aqueous layer was extracted with diethyl ether (10 mL), washed with brine and dried over MgSO4, filtered and concentrated in vacuo. Purification by flash chromatography (5-10% ethyl acetate/petroleum ether) gave the title compound as a brown semi solid (0.154 g, 79%), identified by NMR and mass spectral analyses. MS (EI+): 187 (M+).

reactant | 4-(2-Fluoro-5-trimethylsilanylethynyl-phenyl)-butyronitrile | 1.04 mmol, 0.27 g | FC1=C(C=C(C=C1)C#C[Si](C)(C)C)CCCC#N | C15H18FNSi
reactant | methanol | 2.5 mL | CO | CH4O
reactant | cesium carbonate | 1.2 mmol, 0.41 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | methylene chloride | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
product | 4-(5-Ethynyl-2-fluoro-phenyl)-butyronitrile | C(#C)C=1C=CC(=C(C1)CCCC#N)F | C12H10FN
